US08466143B2
To a solution of 2-methyl-2-thiophen-3-yl-propionitrile in anhydrous ether (200 mL) was added lithium aluminumhydride (5.7 g, 3 equiv) at 0° C. under nitrogen. Stirring was continued for 0.5 h at 20° C. and 3 h at reflux under nitrogen. After cooling, it was quenched with 10% aqueous Rochelle's salt (Yamada, F. et al. Heterocycles, 1998, 49:451-457) and the solid was removed with filtration and washed with ether. The combined filtrate was washed with water and dried over MgSO4. Evaporation of solvent afforded 2-methyl-2-thiophen-3-yl-propylamine as an oil (4.62 g). 1H-NMR(CDCl3): δ 7.29 (1H, dd), 7.03 (1H, dd), 6.99 (1H, dd), 2.74 (2H, s), 1.29 (6H, s).

reactant | 2-methyl-2-thiophen-3-yl-propionitrile | CC(C#N)(C)C1=CSC=C1 | C8H9NS
reactant | lithium | [Li] | Li
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-methyl-2-thiophen-3-yl-propylamine | 4.62 g | CC(CN)(C)C1=CSC=C1 | C8H13NS
